US04957928
25 g (0.6 mol) of sodium hydride dispersion (57% in mineral oil) are substantially freed of mineral oil by repeated washing with n-hexane and are then covered with a layer of 500 ml of dried tetrahydrofuran. Under a nitrogen atmosphere and while cooling in an ice bath, 134 g (0.6 mol) of phosphonoacetic acid triethyl ester of formula (H5C2O)2P(=O)CH2C(=O)OC2H5 are added dropwise thereto within a period of 1 hour. The mixture is stirred for a further 1 hour at 0°. To the homogeneous solution there is then added dropwise within a period of 30 minutes a solution of 88.57 g (0.5 mol) of 2,2-dimethyl-3-oxo-chroman [F. Camps et al., J. Heterocyclic Chem. 22, 1421 (1985)] in 300 ml of tetrahydrofuran. The mixture is stirred overnight at room temperature. The solution is then concentrated to approximately 350 ml in vacuo and poured onto 3 liters of ice-cold phosphate buffer solution (pH=6). The mixture is extracted with diethyl ether. The combined organic phases are washed with water and dried over sodium sulfate and then concentrated by evaporation in vacuo. The yellow residue is chromatographed on 4 kg of silica gel (0.040-0.063 mm) with toluene as eluant, yielding 60.3 g (49% of the theoretical yield) of 3-ethoxycarbonylmethyl-2,2-dimethyl-2H-chromene in the form of a light-yellow oil.

reactant | sodium hydride | 0.6 mol, 25 g | [H-].[Na+]
reactant | phosphonoacetic acid triethyl ester | 0.6 mol, 134 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | 2,2-dimethyl-3-oxo-chroman | 0.5 mol, 88.57 g | CC1(OC2=CC=CC=C2CC1=O)C | C11H12O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-ethoxycarbonylmethyl-2,2-dimethyl-2H-chromene | C(C)OC(=O)CC=1C(OC2=CC=CC=C2C1)(C)C | C15H18O3
